US04761410
A mixture of 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid (syn isomer) (3.0 g), 4-methoxypyridine (4.0 g), sodium iodide (8.0 g), acetonitrile (4.0 ml) and water (1.0 ml) was heated for 2.0 hours at 65° to 68° C., and then water (100 ml) was added thereto. The mixture was adjusted to pH 3.0 with 1N-hydrogen chloride and the resultant precipitates were filtered off. The aqueous layer was subjected to column chromatography on macroporus nonionic adsorption resin "Diaion HP-20" and the elution was carried out with 30% aqueous methanol. The fractions containing the object compound were collected, concentrated in vacuo and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(4-methoxy-1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (0.43 g).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | 3.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=NOC(F)F | C16H15F2N5O7S2
reactant | 4-methoxypyridine | 4.0 g | COC1=CC=NC=C1 | C6H7NO
reactant | sodium iodide | 8.0 g | [I-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 1.0 ml | O | H2O
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
product | 7-[2-(2-aminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(4-methoxy-1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.43 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C(C=C2)OC)C(=O)[O-])C1=O)=NOC(F)F | C20H18F2N6O6S2
